.title MOSFET Switch - Bad Level
M1 out gate gnd gnd nmos W=1u L=250n
.model nmos nmos (level=1 vto=0.7 kp=120u)
Vdd gate 0 2.5
R1 out 0 4.7k
.tran 10p 10n
.end
